US07838543B2
Methyl-(6-nitro-benzothiazol-2-yl)-amine
Place 2-chloro-6-nitro-benzothiazole (5.82 g, 27.1 mmol) in THF (130 mL). Add 40% methylamine in water (7 mL) and stir until the product precipitates out. Concentrate in vacuo and then triturate with methanol. Filter off the product and wash with methanol, Dry thoroughly to yield 4.99 g (88%) of the title compound: mass spectrum (ion-spray): (m/z)=210.0 (M+1).

reactant | 2-chloro-6-nitro-benzothiazole | 27.1 mmol, 5.82 g | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | methylamine | CN | CH5N
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | water | 7 mL | O | H2O
product | Methyl-(6-nitro-benzothiazol-2-yl)-amine | 4.99 g, 88% | CNC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C8H7N3O2S
